US07439260B2
Step 1: (±)-1-Cyclopropyl-2,2,2-trifluoro-1-(2-mercapto-1,3-thiazol-5-yl)ethanol
Cyclopropylmagnesium bromide (0.5 M in THF, 7.00 mL, 3.52 mmol) was added dropwise to solution of 2,2,2-trifluoro-1-(2-mercapto-1,3-thiazol-5-yl)ethanone (0.300 g, 1.41 mmol) in THF(3 mL) at 0° C. After 1 h, saturated aqueous NH4Cl was added and the aqueous layer was extracted with EtOAc (3×). The combined organics were washed with brine, dried (Na2SO4) and concentrated. The residue was purified by chromatography on silica gel (toluene/acetone; 85:15) to yield the title compound.

reactant | Cyclopropylmagnesium bromide | 3.52 mmol, 0.5 M, 7.00 mL | C1(CC1)[Mg]Br
reactant | 2,2,2-trifluoro-1-(2-mercapto-1,3-thiazol-5-yl)ethanone | 1.41 mmol, 0.300 g | FC(C(=O)C1=CN=C(S1)S)(F)F | C5H2F3NOS2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (±)-1-Cyclopropyl-2,2,2-trifluoro-1-(2-mercapto-1,3-thiazol-5-yl)ethanol | C1(CC1)C(C(F)(F)F)(O)C1=CN=C(S1)S | C8H8F3NOS2
